US09212182B2
Intermediate BP: N-(4-methoxybenzyl)pyridazin-3-amine
To a solution of pyridazin-3-ylamine (105 g, 1.1 mol, 1 eq) and 4-methoxybenzaldehyde (150 g, 1.1 mol, 1 eq) in DCM (3 L), was added titanium(IV) chloride triisopropoxide (572 g, 2.2 mol, 2 eq). The reaction mixture was stirred at RT for 8 h. The reaction mixture was cooled to 0° C. and sodium triacetoxyborohydride (933 g, 4.4 mol, 4 eq) was added. The reaction mixture was allowed to stir at RT 5 h. After completion of the reaction, the reaction mixture was cooled to 0° C., quenched with ice water and the solid was filtered through celite pad. The layers were separated and the aqueous layer extracted with DCM (1 L). The combined organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude mass was dissolved in minimum amount of DCM and the product was extracted in 1.5 N HCl thrice. The aqueous layer was basified with saturated NaHCO3 solution; the precipitated product was filtered and dried. Then the solid obtained was washed with minimum amount of diethyl ether and dried to get 60 g of the title compound as pale pink solid (0.27 mol, 25% yield). MS (ESI pos. ion) riVz: (M+2)+=216.7. 1H NMR (400 MHz, Chloroform-d) δ 8.56 (dd, J=1.20, 4.60 Hz, 1H), 7.31 (dd, J=2.80, 11.60 Hz, 2H), 7.15 (dd, J=4.40, 9.00 Hz, 1H), 6.89 (dd, J=2.80, 5.80 Hz, 2H), 6.63 (dd, J=1.20, 9.20 Hz, 1H), 5.15 (br. s, 1H), 4.55 (d, J=5.60 Hz, 2H), 3.81 (s, 3H).

reactant | pyridazin-3-ylamine | 1.1 mol, 105 g, 1 eq | N1=NC(=CC=C1)N | C4H5N3
reactant | 4-methoxybenzaldehyde | 1.1 mol, 150 g, 1 eq | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium triacetoxyborohydride | 4.4 mol, 933 g, 4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 3 L | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride triisopropoxide | 2.2 mol, 572 g, 2 eq | CC([O-])C.CC([O-])C.CC([O-])C.[Ti](Cl)(Cl)(Cl)Cl
product | N-(4-methoxybenzyl)pyridazin-3-amine | 0.27 mol, 60 g, 25% yield | COC1=CC=C(CNC=2N=NC=CC2)C=C1 | C12H13N3O
